US07476756B2
2.1 3-[(11Z)-tetradec-11-en-1-yl]-1,3-oxazolidine-2,4-dione
420 mg (1.98 mmol) of (11Z)-tetradec-11-en-1-ol, in solution in 2 ml of tetrahydrofuran, are added to a solution of 200 mg (1.98 mmol) of 1,3-oxazolidine-2,4-dione and of 571 mg (2.18 mmol) of triphenylphosphine in 4 ml of tetrahydrofuran. 0.99 ml (2.2 mmol) of a 40% solution of diethyl azodicarboxylate in toluene is subsequently added dropwise. The mixture is stirred at ambient temperature for 5 h.

reactant | (11Z)-tetradec-11-en-1-ol | 1.98 mmol, 420 mg | C(CCCCCCCCC\C=C/CC)O | C14H28O
reactant | 1,3-oxazolidine-2,4-dione | 1.98 mmol, 200 mg | O1C(NC(C1)=O)=O | C3H3NO3
reactant | triphenylphosphine | 2.18 mmol, 571 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 3-[(11Z)-tetradec-11-en-1-yl]-1,3-oxazolidine-2,4-dione | C(CCCCCCCCC\C=C/CC)N1C(OCC1=O)=O | C17H29NO3
